US04311700
2-Phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one
78 g of 5-ethoxycarbonyl-4-(2-aminoanilino)-2-phenylpyrimidine are added to a freshly prepared boiling solution of 8 g (350 mmol) of sodium in 250 ml of absolute ethanol, while stirring. The suspension which has been formed thereby is heated under reflux for about 45 minutes until complete solution is effected. After cooling, the mixture is neutralized with 20 ml (350 mmol) of glacial acetic acid. 200 ml of ethanol and 200 ml of water are added, the precipitate is filtered off, washed with water and dried in vacuo; yield: 66 g (97%), with m.p. 260° to 261° C. (from dimethyl formamide/water).

reactant | 5-ethoxycarbonyl-4-(2-aminoanilino)-2-phenylpyrimidine | 78 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)NC1=C(C=CC=C1)N | C19H18N4O2
reactant | sodium | 350 mmol, 8 g | [Na] | Na
reactant | acetic acid | 350 mmol, 20 ml | C(C)(=O)O | C2H4O2
reactant | water | 200 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one | C1(=CC=CC=C1)C=1N=CC2=C(NC3=C(NC2=O)C=CC=C3)N1 | C17H12N4O
